US04207088
A stirred solution of 1-cyclohexenemethanol in 220 ml of chloroform was cooled to 0°-5° and 35.9 g of m-chloroperoxybenzoic acid (41.6 g of 85% pure material) in 355 ml of chloroform was added dropwise during three hours. The temperature of the reaction mixture was maintained at 0°-5° throughout the addition. Upon completion of the addition the reaction mixture was allowed to warm to ambient temperature during 24 hours. The reaction mixture was evaporated under reduced pressure to one-half the original volume and filtered. The filtrate was washed with three portions of 150 ml each of an aqueous solution saturated with sodium bicarbonate; then with three portions of 150 ml each of an aqueous solution saturated with sodium chloride. The chloroform layer was dried with sodium sulfate and filtered. The filtrate was evaporated under reduced pressure to a residue. The residue was distilled using a Vigreux column to give 10.8 g of 1,2-epoxycyclohexanemethanol; bp 51°-52°/0.08-0.085 mm; nD25 =1.4738. The nmr and the ir spectra were consistent with the assigned structure.

reactant | 1-cyclohexenemethanol | C1(=CCCCC1)CO | C7H12O
reactant | m-chloroperoxybenzoic acid | 35.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 220 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 355 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2-epoxycyclohexanemethanol | 10.8 g | O1C2(C1CCCC2)CO | C7H12O2
